US03931156
A suspension of 17.3 g of 7-amino-2,3-dihydro-1H-pyrrolo [1,2-a]benzimidazole prepared according to W. Reppe, Ann. 596, 209 (1955) in 200 cm3 of 5 N hydrochloric acid is diazotized with a solution of 7.2 g of sodium nitrite in 30 cm3 of water. The obtained solution is added to a solution of 8 g of cuprous chloride in 35 cm3 of concentrated hydrochloric acid at 50°-60°C. After cooling the precipitate is sucked off, washed with water and suspended in water. By adding to this suspension a 25 % aqueous solution of ammonia the heterocyclic base is set free and sucked off. After drying, recrystallization from benzene yields 4.1 g of 7-chloro-2,3-dihydro-1H-pyrrolo[1,2-a]benzimidazole. Melting point: 136°C.

reactant | 7-amino-2,3-dihydro-1H-pyrrolo [1,2-a]benzimidazole | 17.3 g | NC=1C=CC2=C(N3C(=N2)CCC3)C1 | C10H11N3
reactant | sodium nitrite | 7.2 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 5 N, 200 cm3 | Cl | ClH
reactant | hydrochloric acid | 35 cm3 | Cl | ClH
solvent | water | 30 cm3 | O | H2O
product | 7-chloro-2,3-dihydro-1H-pyrrolo[1,2-a]benzimidazole | 4.1 g | ClC=1C=CC2=C(N3C(=N2)CCC3)C1 | C10H9ClN2
